US07582657B2
(2E)-3-[4-(tert-Butyl)phenyl]-N-[1-(2-methoxyethyl)indol-5-yl]prop-2-enamide
Analogous to the procedure used to prepare Example 70, 2-bromoethyl methyl ether (140 mg, 1.0 mmol, Aldrich) and (2E)-3-[4-(tert-butyl)phenyl]-N-indol-5-ylprop-2-enamide, Example 161, (320 mg, 0.01 mmol) provided, after purification by silica gel chromatography (65:35 hexane:EtOAc), the title compound as a pale yellow solid. MP 138° C. MS (ESI, pos. ion) m/z: 377 (M+1).

reactant | 2-bromoethyl methyl ether | 1.0 mmol, 140 mg | COCCBr | C3H7BrO
reactant | (2E)-3-[4-(tert-butyl)phenyl]-N-indol-5-ylprop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC=1C=C2C=CNC2=CC1 | C21H22N2O
product | (2E)-3-[4-(tert-Butyl)phenyl]-N-[1-(2-methoxyethyl)indol-5-yl]prop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC=1C=C2C=CN(C2=CC1)CCOC | C24H28N2O2
